US08034953B2
N′-(Acetyloxy)-4-amino-N-(3-chloro-4-fluorophenyl)-1,2,5-oxadiazole-3-carboximidamide
A solution of 4-amino-N-(3-chloro-4-fluorophenyl)-N′-hydroxy-1,2,5-oxadiazole-3-carboximidamide (0.1 g, 0.37 mmol) in acetic anhydride was stirred for 2 h. The reaction mixture was concentrated and purified by preparative LCMS to give the desired product (625 mg, 54%). LCMS for C11H10ClFN5O3 (M+H)+: m/z=314.1.

reactant | 4-amino-N-(3-chloro-4-fluorophenyl)-N′-hydroxy-1,2,5-oxadiazole-3-carboximidamide | 0.37 mmol, 0.1 g | NC=1C(=NON1)C(NC1=CC(=C(C=C1)F)Cl)=NO | C9H7ClFN5O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | N′-(Acetyloxy)-4-amino-N-(3-chloro-4-fluorophenyl)-1,2,5-oxadiazole-3-carboximidamide | 625 mg, 54% | C(C)(=O)ON=C(NC1=CC(=C(C=C1)F)Cl)C1=NON=C1N | C11H9ClFN5O3
